US09402397B2
Preparation of 4-(furan-2-yl)-2-phenyl-2H-1,2,3-triazole (Formula Id-ii)
An aqueous solution of hydrated copper sulphate (421 mg, 1.68 mmol) in 2 mL of demineralized water was added portion-wise to a solution of (2E)-2,2′-(1-(furan-2-yl)ethane-1,2-diylidene)bis(1-phenylhydrazine) (150 mg, 0.493 mmol) in dioxane (3.3 ml) while heating under reflux. After complete addition, heating was continued further for 2 hours. The solvent was then evaporated to dryness. The resulting crude material was subjected to flash column chromatography using an ethyl acetate/hexane solvent system (1-1.5%) to yield the desired compound 4-(furan-2-yl)-2-phenyl-2H-1,2,3-triazole as a yellow solid (60 mg, 57.7%). The HPLC purity of the final product was 96.03%. LC-MS [M+1] (C12H9N3O+H expected 212.07). The melting point of the final compound was observed to be 80° C. The 1H-NMR spectra was in accordance with the chemical structure.

reactant | (2E)-2,2′-(1-(furan-2-yl)ethane-1,2-diylidene)bis(1-phenylhydrazine) | 0.493 mmol, 150 mg | O1C(=CC=C1)\C(\C=NNC1=CC=CC=C1)=N\NC1=CC=CC=C1 | C18H16N4O
solvent | water | 2 mL | O | H2O
solvent | dioxane | 3.3 ml | O1CCOCC1 | C4H8O2
product | 4-(furan-2-yl)-2-phenyl-2H-1,2,3-triazole | 60 mg, 57.7% | O1C(=CC=C1)C1=NN(N=C1)C1=CC=CC=C1 | C12H9N3O
